US07405305B2
3-Hydroxymethyl-4-indol-1-ylpiperidine-1-carboxylic acid tert-butyl ester
Dissolve 1-(1-tert-Butoxycarbonyl-3-ethyl-piperidin-4-yl)-1H-indole (2.86 g, 7.7 mmol) in TIP (25 ml) and stir at ambient temperature. Add a 1M solution of lithium aluminum hydride in THF (8.5 ml, 8.5 mmol) dropwise via syringe. Stir for two hours, then quench with 0.34 ml water, 0.26 ml 5N sodium hydroxide, and 1.2 ml water. Filter through a pad of Celite®, concentrate to an oil. Purify by flash chromatography to yield the title compound (1.15 g, 45%). ES (M++1): 275.1

reactant | 1-(1-tert-Butoxycarbonyl-3-ethyl-piperidin-4-yl)-1H-indole | 7.7 mmol, 2.86 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1C=CC2=CC=CC=C12)CC | C20H28N2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 8.5 mmol, 8.5 ml | C1CCOC1 | C4H8O
product | 3-Hydroxymethyl-4-indol-1-ylpiperidine-1-carboxylic acid tert-butyl ester | 1.15 g, 45% | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1C=CC2=CC=CC=C12)CO | C19H26N2O3
